US08314138B2
Synthesis of 4-methyl-2-[6-(3-phenethyl-pyrrolidin-1-yl)-pyrazin-2-yl]-thiazole-5-carboxylic acid 4-fluoro-benzylamide
Following the procedure described in Example 14, making variations as required to replace 4-fluoro-N-methyl-benzylamine with 3-phenethyl-pyrrolidine to react with 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide, the title compound was obtained in 75% yield. 1H NMR (400 MHz, CD2Cl2) δ 8.50 (s, 1H), 7.89 (s, 1H), 7.31-7.38 (m, 2H), 7.24-7.30 (m, 2H), 7.14-7.23 (m, 3H), 7.00-7.09 (m, 2H), 6.18 (bs, 1H), 4.55 (d, J=4.0 Hz, 2H), 3.70-3.78 (m, 1H), 3.62-3.69 (m, 1H), 3.39-3.48 (m, 1H), 3.06-3.13 (m, 1H), 2.70 (s, 3H), 2.68-2.75 (m, 2H), 2.27-2.38 (m, 1H), 2.15-2.26 (m, 1H), 1.64-1.86 (m, 3H); MS (ES+) m/z 502.3 (M+1), Rt=138 min.

reactant | 4-fluoro-N-methyl-benzylamine | FC1=CC=C(CNC)C=C1 | C8H10FN
reactant | 3-phenethyl-pyrrolidine | C(CC1=CC=CC=C1)C1CNCC1 | C12H17N
reactant | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)I)C)C=C1 | C16H12FIN4OS
product | 4-methyl-2-[6-(3-phenethyl-pyrrolidin-1-yl)-pyrazin-2-yl]-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 75% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)N2CC(CC2)CCC2=CC=CC=C2)C)C=C1 | C28H28FN5OS
